US08372842B2
TFA (0.52 mL, 6.79 mmol) was added to a solution of tert-butyl 4-(1-(4-methoxybenzyl)-3-(1-(4-methoxybenzyl)-5-oxopyrrolidin-3-ylamino)-5-phenyl-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (0.195 g, 0.27 mmol) in DCM (1 mL) and stirred at room temperature for 1 hour. The solvent was removed. The residue was dissolved in TFA (4 mL) and heated at 100° C. in a sealed tube overnight. The TFA was removed. The residue was dissolved in DCM (0.5 mL), and HCl in ether (1 mL) was added. The solid formed was collected by filtration to give 4-(5-phenyl-4-(piperazin-1-yl)-1H-pyrazolo[3,4-b]pyridin-3-ylamino)pyrrolidin-2-one hydrochloride (0.20 g, 98% yield) as a solid.

reactant | TFA | 6.79 mmol, 0.52 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 4-(1-(4-methoxybenzyl)-3-(1-(4-methoxybenzyl)-5-oxopyrrolidin-3-ylamino)-5-phenyl-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 0.27 mmol, 0.195 g | COC1=CC=C(CN2N=C(C=3C2=NC=C(C3N3CCN(CC3)C(=O)OC(C)(C)C)C3=CC=CC=C3)NC3CN(C(C3)=O)CC3=CC=C(C=C3)OC)C=C1 | C41H47N7O5
reactant | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 4-(5-phenyl-4-(piperazin-1-yl)-1H-pyrazolo[3,4-b]pyridin-3-ylamino)pyrrolidin-2-one hydrochloride | 0.20 g, 98% yield | Cl.C1(=CC=CC=C1)C=1C(=C2C(=NC1)NN=C2NC2CC(NC2)=O)N2CCNCC2 | InChI=1S/C20H23N7O.ClH/c28-16-10-14(11-22-16)24-20-17-18(27-8-6-21-7-9-27)15(12-23-19(17)25-26-20)13-4-2-1-3-5-13;/h1-5,12,14,21H,6-11H2,(H,22,28)(H2,23,24,25,26);1H
